US04873328
(RS)-3-[3-[[2-(3,4-Dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-6-(2-methylpropylidene)hydrazinopyridazine dihydrochloride
In a similar manner to Example 8 reaction of 2 g of (RS)-3-[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-6-hydrazinopyridazine dihydrochloride with (1.1 ml) of isobutyraldehyde afforded the title compound in 71% yield, m.p. 150°-152° C. (with decomp).

reactant | (RS)-3-[3-[[2-(3,4-dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-6-hydrazinopyridazine dihydrochloride | 2 g | Cl.Cl.COC=1C=C(C=CC1OC)CCNCC(COC=1N=NC(=CC1)NN)O
reactant | isobutyraldehyde | 1.1 ml | C(C(C)C)=O | C4H8O
product | (RS)-3-[3-[[2-(3,4-Dimethoxyphenyl)ethyl]amino]-2-hydroxypropoxy]-6-(2-methylpropylidene)hydrazinopyridazine dihydrochloride | 71% yield | Cl.Cl.COC=1C=C(C=CC1OC)CCNCC(COC=1N=NC(=CC1)NN=CC(C)C)O | InChI=1S/C21H31N5O4.2ClH/c1-15(2)12-23-24-20-7-8-21(26-25-20)30-14-17(27)13-22-10-9-16-5-6-18(28-3)19(11-16)29-4;;/h5-8,11-12,15,17,22,27H,9-10,13-14H2,1-4H3,(H,24,25);2*1H
